US07919496B2
SYNTHESIS OF 5-PENTYLCARBAMOYL-3-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRAZOLE-1-CARBOXYLIC ACID BENZYL ESTER
A mixture of above 3-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]-pyrazole-1,5-dicarboxylic acid 1-benzyl ester 5-methyl ester (0.800 g, ca. 1.5 mmol), amylamine (3.0 mL) and sodium cyanide (0.150 g, 3.0 mmol) was stirred at room temperature overnight and then purified by column chromatography to give the title compound (0.238 g, 10% in 2 steps). 1H NMR (300 MHz, CDCl3) δ 7.70 (d, J=7.5 Hz, 1H), 7.61-7.49 (m, 2H), 7.32 (d, J=7.5 Hz, 1H), 7.25-7.17 (m, 5H), 5.93-5.85 (m, 2H), 5.56 (s, 2H), 3.98-3.84 (m, 2H), 3.33-3.05 (m, 8H), 1.57-1.44 (m, 2H), 1.31-1.18 (m, 4H), 0.86 (t, J=6.6 Hz, 3H); 13C NMR (75 MHz, CDCl3) δ 167.4, 159.7, 157.0, 137.7, 136.3, 134.6, 132.2, 129.2, 128.3, 127.6, 127.4, 127.2, 127.1, 126.6, 126.2, 125.4, 92.2, 53.9, 48.1, 47.8, 46.4, 41.0, 39.5, 29.1, 28.9, 22.3, 13.9. MS (ES+) m/z 572.0 (M+1). m.p. 58-61° C.

reactant | 3-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]-pyrazole-1,5-dicarboxylic acid 1-benzyl ester 5-methyl ester | ca. 1.5 mmol, 0.800 g | COC(=O)C1=CC(=NN1C(=O)OCC1=CC=CC=C1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C25H23F3N4O5
reactant | amylamine | 3.0 mL | C(CCCC)N | C5H13N
reactant | sodium cyanide | 3.0 mmol, 0.150 g | [C-]#N.[Na+]
product | 5-PENTYLCARBAMOYL-3-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRAZOLE-1-CARBOXYLIC ACID BENZYL ESTER | 0.238 g, 10% | C(C1=CC=CC=C1)OC(=O)N1N=C(C=C1C(NCCCCC)=O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C29H32F3N5O4
